US05439930
To a well stirred solution of L-proline (1.15 g; 0.01 mole) in 2N aq. NaOH (5 ml), 4N aq. NaOH (2.5 ml) and iso-valeryl chloride (1.4 ml; 0.012 mole) were added simultaneously dropwise maintaining the temperature near 0°-4° C. After 15 minutes, the mixture was acidified (pH 2-3) with 1N HCl and extracted with CHCL3. The combined organic extract was dried using MgSO4, and the solvent was removed. N-iso-valeryl-L-proline was obtained as an oil. Yield 0.85 g, Rf =0.66 (Silica gel, n-C4H9OH-AcOH-H2O, 5:1:2); [α]D20 -129.3° (c 0.6; CHCl3).

reactant | L-proline | 0.01 mole, 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | iso-valeryl chloride | 0.012 mole, 1.4 ml | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 2N, 5 ml | [OH-].[Na+]
solvent | NaOH | 4N, 2.5 ml | [OH-].[Na+]
product | N-iso-valeryl-L-proline | C(CC(C)C)(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO3
